US07176212B2
2-{4-[3-(N,N-Dimethyl)amino-2-hydroxypropoxy]anilino}-4-(N-(n-butyl)anilino)pyrimidine
2-Chloro-4-(N-(n-butyl)anilino)pyrimidine (570 mg, 2.18 mmol) was dissolved in n-butanol (4 ml) and 4-[3-(N,N-dimethyl)amino-2-hydroxypropoxy]aniline dihydrochloride (Reference Example D-1; 554 mg, 1.97 mmol) was added. The resulting suspension was treated with methanol until all the solid dissolved. The reaction mixture was heated at 95° C. for 12 hours and allowed to cool to ambient temperature. The reaction mixture was then basified to pH 9–10 using methanolic ammonia and then evaporated onto silica (5 ml). The residue was purified by column chromatography eluting with methanol (15%):DCM:aqueous ammonia (1%). The resulting gum was re-evaporated from EtOAc twice to give the title product as a foam (130 mg).

reactant | 2-Chloro-4-(N-(n-butyl)anilino)pyrimidine | 2.18 mmol, 570 mg | ClC1=NC=CC(=N1)N(C1=CC=CC=C1)CCCC | C14H16ClN3
reactant | 4-[3-(N,N-dimethyl)amino-2-hydroxypropoxy]aniline dihydrochloride | 1.97 mmol, 554 mg | Cl.Cl.CN(C)CC(COC1=CC=C(N)C=C1)O
reactant | methanol | CO | CH4O
reactant | ammonia | N | H3N
solvent | n-butanol | 4 ml | C(CCC)O | C4H10O
product | 2-{4-[3-(N,N-Dimethyl)amino-2-hydroxypropoxy]anilino}-4-(N-(n-butyl)anilino)pyrimidine | 130 mg | CN(C)CC(COC1=CC=C(NC2=NC=CC(=N2)N(C2=CC=CC=C2)CCCC)C=C1)O | C25H33N5O2
